US05192774
2.47 g of [3-[3-(piperidinomethyl)phenoxy]propylamine was dissolved n 40 ml of dimethylmalonate and stirred at external temperature of 130° C. for 2 hours. Then, an excessive quantity of dimethylmalonate was distilled of under reduced pressure. Light brown oily substance was obtained. The obtained substance was subjected to silica gel column chromatography (solvent; chloroform:methanol=6:1). As a result, 3.06 g of oily N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-methoxycarbonylacetamide was obtained.

reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | dimethylmalonate | 40 ml | CC(C(=O)[O-])(C(=O)[O-])C
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-methoxycarbonylacetamide | 3.06 g | N1(CCCCC1)CC=1C=C(OCCCNC(CC(=O)OC)=O)C=CC1 | C19H28N2O4
